US09353102B2
(R)-1-[4,5-Dimethyl-3-(3-trifluoromethyl-[1,2,4]oxadiazol-5-yl)-thiophen-2-ylcarbamoyl]-pyrrolidine-2-carboxylic acid
To a solution of 5-(2-isocyanato-4,5-dimethyl-thiophen-3-yl)-3-trifluoromethyl-[1,2,4]-oxadiazole (178 mg, 0.615 mmol) in CH2Cl2 (10 mL) were added D-proline (142 mg, 1.23 mmol) and triethylamine (0.128 mL, 0.923 mmol) at 25° C. and the reaction mixture was stirred at 25° C. for 12 h. The reaction mixture was diluted with CH2Cl2 (20 mL) and washed with 2N aqueous HCl solution (15 mL) followed by H2O (20 mL). The organic layer was dried over Na2SO4, filtered and evaporated. The residue was purified using silica gel column chromatography using a gradient of CH2Cl2:MeOH (100:0 to 95:5) to furnish the desired compound as an off-white solid (120 mg, 48%). MS (ESI): m/z=403.4 (M−H)−.

reactant | 5-(2-isocyanato-4,5-dimethyl-thiophen-3-yl)-3-trifluoromethyl-[1,2,4]-oxadiazole | 0.615 mmol, 178 mg | N(=C=O)C=1SC(=C(C1C1=NC(=NO1)C(F)(F)F)C)C | C10H6F3N3O2S
reactant | D-proline | 1.23 mmol, 142 mg | N1[C@@H](C(=O)O)CCC1 | C5H9NO2
reactant | triethylamine | 0.923 mmol, 0.128 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | (R)-1-[4,5-Dimethyl-3-(3-trifluoromethyl-[1,2,4]oxadiazol-5-yl)-thiophen-2-ylcarbamoyl]-pyrrolidine-2-carboxylic acid | 120 mg, 48% | CC=1C(=C(SC1C)NC(=O)N1[C@H](CCC1)C(=O)O)C1=NC(=NO1)C(F)(F)F | C15H15F3N4O4S
